US08383635B2
4-{[3-(2-aminoethyl)phenyl]amino}-2-[(3-aminopropyl)amino]pyrido[4,3-d]pyrimidin-5(6H)-one
To a premixed solution of TFA (0.5 mL, 6.49 mmol) and dichloromethane (0.5 mL) was added to 1,1-dimethylethyl{3-[(4-{[3-(2-aminoethyl)phenyl]amino}-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-2-yl)amino]propyl}carbamate (11 mg, 0.024 mmol) and the reaction mixture was stirred for 30 min. It was concentrated and the product lypholized (4 mg, white solid).

reactant | TFA | 6.49 mmol, 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1,1-dimethylethyl{3-[(4-{[3-(2-aminoethyl)phenyl]amino}-5-oxo-5,6-dihydropyrido[4,3-d]pyrimidin-2-yl)amino]propyl}carbamate | 0.024 mmol, 11 mg | CC(C)(C)N(C([O-])=O)CCCNC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC(=CC=C2)CCN
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 4-{[3-(2-aminoethyl)phenyl]amino}-2-[(3-aminopropyl)amino]pyrido[4,3-d]pyrimidin-5(6H)-one | NCCC=1C=C(C=CC1)NC=1C2=C(N=C(N1)NCCCN)C=CNC2=O | C18H23N7O
